US08242133B2
A mixture of 7.5 g of crude product of 1-ethoxymethoxy-4-iodobenzene, 10.0 g of sodium pentafluoropropionate salt, 10.27 g of copper (I) iodide, 120 ml of DMF and 45 ml of toluene was stirred while heating at 140 to 150° C. for one hour to remove about 40 ml of toluene. The reaction mixture was heated to reflux at 160 to 170° C. for further five hours, and then cooled to room temperature and poured into ice water. To the reaction mixture, 200 ml of diethyl ether was added. The reaction mixture was filtered through Celite™. The filtrate was extracted with diethyl ether. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 5.45 g of 1-ethoxymethoxy-4-pentafluoroethyl benzene.

reactant | 1-ethoxymethoxy-4-iodobenzene | C(C)OCOC1=CC=C(C=C1)I | C9H11IO2
reactant | sodium pentafluoropropionate salt | 10.0 g | FC(C(C(=O)[O-])(F)F)(F)F.[Na+]
reactant | DMF | 120 ml | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 10.27 g | [Cu]I
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | 1-ethoxymethoxy-4-pentafluoroethyl benzene | 5.45 g | C(C)OCOC1=CC=C(C=C1)C(C(F)(F)F)(F)F | C11H11F5O2
